US08466186B2
(c) {4-Chloro-3-[5-chloro-6-(2-dimethylaminomethyl-pyrrolidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-carbamic acid tert-butyl ester
(4-Chloro-3-isothiocyanato-benzyl)-carbamic acid tert-butyl ester (68 mg, 0.2 mmol) followed by TEA (160 μL, 1.2 mmol) were added to 4-chloro-5-(2-dimethylaminomethyl-pyrrolidin-1-yl)-benzene-1,2-diamine (95 mg) in DMF (3 mL). The mixture was stirred at rt for 4 h and then purified by chromatography to give the sub-title compound.

reactant | (4-Chloro-3-isothiocyanato-benzyl)-carbamic acid tert-butyl ester | 0.2 mmol, 68 mg | C(C)(C)(C)OC(NCC1=CC(=C(C=C1)Cl)N=C=S)=O | C13H15ClN2O2S
reactant | 4-chloro-5-(2-dimethylaminomethyl-pyrrolidin-1-yl)-benzene-1,2-diamine | 95 mg | ClC=1C=C(C(=CC1N1C(CCC1)CN(C)C)N)N | C13H21ClN4
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | {4-Chloro-3-[5-chloro-6-(2-dimethylaminomethyl-pyrrolidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC(=C(C=C1)Cl)NC1=NC2=C(N1)C=C(C(=C2)Cl)N2C(CCC2)CN(C)C)=O | C26H34Cl2N6O2
